US08034812B2
Production of N-[3-({2-[(methylsulfonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)phenyl]-3-(trifluoromethyl)benzamide
Using N-{3-[(2-aminoimidazo[1,2-b]pyridazin-6-yl)oxy]phenyl}-3-(trifluoromethyl)benzamide (150 mg, 0.362 mmol), triethylamine (76 μL, 0.544 mmol), methanesulfonyl chloride (34 μL, 0.435 mmol) and tetrahydrofuran (5 mL) as starting materials and in the same manner as in Example 388, the title compound (108 mg, 61%) was obtained as a pale-green-powder.

reactant | N-{3-[(2-aminoimidazo[1,2-b]pyridazin-6-yl)oxy]phenyl}-3-(trifluoromethyl)benzamide | 0.362 mmol, 150 mg | NC=1N=C2N(N=C(C=C2)OC=2C=C(C=CC2)NC(C2=CC(=CC=C2)C(F)(F)F)=O)C1 | C20H14F3N5O2
reactant | triethylamine | 0.544 mmol, 76 μL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.435 mmol, 34 μL | CS(=O)(=O)Cl | CH3ClO2S
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | N-[3-({2-[(methylsulfonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)phenyl]-3-(trifluoromethyl)benzamide | 108 mg, 61% | CS(=O)(=O)NC=1N=C2N(N=C(C=C2)OC=2C=C(C=CC2)NC(C2=CC(=CC=C2)C(F)(F)F)=O)C1 | C21H16F3N5O4S
